US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A mixture of 2,3,4,5-tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl)methyl]-1H-pyrido[4,3-b]indol-1-one (100 mg) in formamide (20 ml) was heated at 180° for 24 h. The mixture was then cooled, diluted with water (100 ml) and extracted with dichloromethane (3×100 ml). The combined organic extracts were concentrated in vacuo and the residue was purified by FCC eluting with System A (100:8:1) to give the title compound (40 mg) as a solid. The 1H-n.m.r. and t.l.c. data for this material were consistent with those obtained for the product of Example 20.

reactant | 2,3,4,5-tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 100 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC2=C(N=CO2)C)=O | C17H17N3O2
reactant | formamide | 20 ml | C(=O)N | CH3NO
solvent | water | 100 ml | O | H2O
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 40 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
